US07612091B2
(3S)-3-Amino-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester
10% Pd on carbon (2.92 g) was added portionwise to a solution of 3-benzyloxycarbonylamino-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester (14.6 g) in anhydrous MeOH (350 mL) which has been degassed under nitrogen (5×). The reaction was further degassed under nitrogen (3×) and hydrogen (5×) and stirred at room temperature for 20 minutes. The palladium residues were removed by filtration and the filtrate concentrated to give the sub-title compound as a white solid (9,5 g, 90%); 1H NMR (400 MHz, CDCl3) δ 1.49 (9H, s), 2.35-2.43 (1H, m), 5.67-5.64 (1H, m), 3.37-3.43 (1H, m), 3.77-3.87 (1H, m), 4.28-4.63 (2H, m), 6.77-6.86 (1H, m); 19F NMR (346 MHz, CDCl3) (proton decoupled) δ −139.95, −139.97, −140.00, −140.03, −140.05, −140.08, −140.11, −140.13, −157.15, −157.18, −157.21, −157.23, −157.27, −157.29.

reactant | 3-benzyloxycarbonylamino-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | 14.6 g | C(C)(C)(C)OC(CC(C(COC1=C(C(=CC(=C1F)F)F)F)O)NC(=O)OCC1=CC=CC=C1)=O | C23H25F4NO6
solvent | MeOH | 350 mL | CO | CH4O
catalyst | Pd on carbon | 2.92 g | [Pd] | Pd
product | (3S)-3-Amino-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | 9,5 g, 90% | C(C)(C)(C)OC(C[C@@H](C(COC1=C(C(=CC(=C1F)F)F)F)O)N)=O | C15H19F4NO4
